US06231833B1
(7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was prepared according to Preparation 3 with 3,6-dichloropyridazine and (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine. mp (—HCl) 265-270° C. 13C NMR (base, CDCl3): δ26.8, 29.0, 36.4, 45.1, 50.4, 54.4, 58.6, 60.3, 71.5, 115.2, 115.3, 115.4, 115.6, 115.9, 128.7, 146.7, 155.0, 155.6, 158.76, 158.82. HRMS calcd for C19H22ClFN4O: 376.1461; found: 376.1453.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCNC3)C2)C=C1 | C15H21FN2O
reactant | HCl | Cl | ClH
product | (7R,9aS)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C=3N=NC(=CC3)Cl)C2)C=C1 | C19H22ClFN4O
